US07314849B2
To a solution of 4-amino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)pyridine-2-carboxylic acid, methyl ester (200 mg, 0.9 mmol) in ethanol (5 mL) was added a catalytic amount of titanium tetraisopropoxide and the solution heated under reflux for 2 hours. The solution was cooled and partitioned between ethyl acetate (10 mL) and water (10 mL) and the organic phase was dried (sodium sulfate) and concentrated. The residue was passed over a plug of silica gel (1:1 ethyl acetate: hexanes) to give 4-amino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)pyridine-2-carboxylic acid, ethyl ester (150 mg. 0.6 mmol): mp 74-75° C.

reactant | 4-amino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)pyridine-2-carboxylic acid, methyl ester | 0.9 mmol, 200 mg | NC1=C(C(=NC(=C1)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC)Cl | C14H11Cl2FN2O3
reactant | ethanol | 5 mL | C(C)O | C2H6O
catalyst | titanium tetraisopropoxide | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | 4-amino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)pyridine-2-carboxylic acid, ethyl ester | 0.6 mmol, 150 mg | NC1=C(C(=NC(=C1)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OCC)Cl | C15H13Cl2FN2O3
